US04647687
17.3 g of 1-chloro-2-cyano-vinyl 2-cyano-ethyl sulphide were dissolved in 100 ml of dichloroethane, and 9.8 g of sodium acetate were added. 16 g of bromine were then added dropwise at 20° C. The organic phase was washed with water, concentrated and chromatographed. 10.2 g of 2-bromo-1-chloro-2-cyano-vinyl 2-cyano-ethyl sulphide were obtained as an oil, 1H-NMR: δ=2.6-2.9 (2H) and 3.1-3.5 (2H).

reactant | 1-chloro-2-cyano-vinyl 2-cyano-ethyl sulphide | 17.3 g | C(#N)CCSC(=CC#N)Cl | C6H5ClN2S
reactant | sodium acetate | 9.8 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 16 g | BrBr | Br2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 2-bromo-1-chloro-2-cyano-vinyl 2-cyano-ethyl sulphide | 10.2 g | C(#N)CCSC(=C(C#N)Br)Cl | C6H4BrClN2S
